US05103060
155 g of potassium carbonate were introduced into 500 ml of dimethylformamide. 50 g (0.28 mol) of N-formyl-2-methyl-4-nitroaniline were added to this mixture to give an orange solution, which became blood-red after 128.6 g (136.8 ml, 1.68 mol) of allyl chloride were added. The resultant reaction mixture was stirred overnight and subsequently poured into 1.5 1 of ice water. The crude product which deposited was extracted twice from the aqueous phase with 400 ml of dichloromethane in each case. The two combined dichloromethane phases were washed three times with 500 ml of water in each case, subsequently dried over sodium sulfate and then evaporated, to give 58.3 g of N-allyl-N-formyl-2-methyl-4-nitroaniline (yield: 95%) as an orange oil which crystallized in the refrigerator. The product had a melting point of 56° C. and the following physical/chemical properties:

reactant | potassium carbonate | 155 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-formyl-2-methyl-4-nitroaniline | 0.28 mol, 50 g | C(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H8N2O3
reactant | allyl chloride | 1.68 mol, 136.8 ml, 128.6 g | C(C=C)Cl | C3H5Cl
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-allyl-N-formyl-2-methyl-4-nitroaniline | 58.3 g, yield: 95% | C(C=C)N(C1=C(C=C(C=C1)[N+](=O)[O-])C)C=O | C11H12N2O3
